US06800629B2
In 200 mL of water was suspended 1.0 g of 3-hydroxy-2-pyrazinecarboxamide. At room temperature, 10% fluorine gas (a fluorine gas diluted with nitrogen gas) was introduced at a rate of 45 mL per minute for a period of 25 minutes. Then, nitrogen gas was introduced for 45 minutes, and the liquid reaction mixture was neutralized with calcium carbonate, the deposited precipitate was filtered off, the filtrate was concentrated under reduced pressure, and the solid product thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=5:1] to obtain 0.008 g of 6-fluoro-3-hydroxy-2-pyrazinecarboxamide as a white-colored solid product.

reactant | 3-hydroxy-2-pyrazinecarboxamide | 1.0 g | OC=1C(=NC=CN1)C(=O)N | C5H5N3O2
reactant | fluorine | FF | F2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | water | 200 mL | O | H2O
product | 6-fluoro-3-hydroxy-2-pyrazinecarboxamide | 0.008 g | FC1=CN=C(C(=N1)C(=O)N)O | C5H4FN3O2
